US08067457B2
To a solution of tert-butyl (3R)-3-{[(2-oxo-2-{[3-(trifluoromethyl)phenyl]amino}ethyl)amino]carbonyl}pyrrolidine-1-carboxylate (0.170 g, 0.41 mmol) in dioxane (0.5 ml), was added 4M HCl/dioxane (2 mL). The mixture was stirred at RT for 2 h. The mixture was concentrated, and (3R)—N-(2-oxo-2-{[3-(trifluoromethyl)phenyl]amino}ethyl)pyrrolidine-3-carboxamide hydrochloride was obtained as a white solid and was used in the next step without further purification.

reactant | tert-butyl (3R)-3-{[(2-oxo-2-{[3-(trifluoromethyl)phenyl]amino}ethyl)amino]carbonyl}pyrrolidine-1-carboxylate | 0.41 mmol, 0.170 g | O=C(CNC(=O)[C@H]1CN(CC1)C(=O)OC(C)(C)C)NC1=CC(=CC=C1)C(F)(F)F | C19H24F3N3O4
reactant | HCl dioxane | 4M, 2 mL | Cl.O1CCOCC1
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | (3R)—N-(2-oxo-2-{[3-(trifluoromethyl)phenyl]amino}ethyl)pyrrolidine-3-carboxamide hydrochloride | Cl.O=C(CNC(=O)[C@H]1CNCC1)NC1=CC(=CC=C1)C(F)(F)F | InChI=1S/C14H16F3N3O2.ClH/c15-14(16,17)10-2-1-3-11(6-10)20-12(21)8-19-13(22)9-4-5-18-7-9;/h1-3,6,9,18H,4-5,7-8H2,(H,19,22)(H,20,21);1H/t9-;/m1./s1
